US07799815B2
Preparation 20: Diethyl-2-(6-quinoxalinyl)-2-butenedioate (P20)
The title compound can be prepared through a palladium mediated coupling reaction, using diethyl maleate or fumarate as a common reagent (e.g. Tetrahedron, 2002, 58, 6545). For example, a mixture of 6-bromoquinoxaline (1 eq.), diethyl maleate (2.3 eq.), palladium acetate (0.05 eq.), tri(o-tolyl)phosphine (0.1 eq.) and potassium carbonate (2 eq.) in DMF may be warmed to 100° C. and stirred for 16 hours. Quenching with water, extraction with diethyl ether and purification of the crude product by flash chromatography should provide the title compound.

reactant | diethyl maleate | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
reactant | 6-bromoquinoxaline | 1 eq. | BrC=1C=C2N=CC=NC2=CC1 | C8H5BrN2
reactant | diethyl maleate | 2.3 eq. | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
reactant | tri(o-tolyl)phosphine | 0.1 eq. | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.05 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Diethyl-2-(6-quinoxalinyl)-2-butenedioate | C(C)OC(C(=CC(=O)OCC)C=1C=C2N=CC=NC2=CC1)=O | C16H16N2O4
